US09227984B2
2-[(4-Fluorophenyl)(hydroxy)methylene]malononitrile
To a solution of malononitrile (30 mmol) and triethylamine (36 mmol) in THF/toluene (40 mL, 1:1) at 0° C. was slowly added 4-fluorobenzoyl chloride (30 mmol). The resulting reaction mixture was stirred at room temperature for 2 hours. After concentration under reduced pressure, the crude residue was purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio of 1:30), yielding the pure title compound (5.2 g, 93%) as a yellowish oil. MS (m/z) 189.2 [M+H]+ (100%). δH (300 MHz, CDCl3, 25° C.) 10.61 (br s, 1H), 7.80 (dd, J 8.7, 5.4 Hz, 2H), 7.06 (t, J 8.7 Hz, 2H).

reactant | malononitrile | 30 mmol | C(CC#N)#N | C3H2N2
reactant | triethylamine | 36 mmol | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 30 mmol | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | THF toluene | 40 mL | C1CCOC1.C1(=CC=CC=C1)C
product | 2-[(4-Fluorophenyl)(hydroxy)methylene]malononitrile | 5.2 g, 93% | FC1=CC=C(C=C1)C(=C(C#N)C#N)O | C10H5FN2O
